US06335344B1
A mixture of 6-amino-benzo[1,3]dioxole-5-carboxylic acid (4.3 g, 23.7 mmol) and formamide (15 mL) was heated to 140° C. for 2 hours, then to 170° C. for 2 hours. After cooling to room temperature, precipitate was collected to give 7H-[1,3]dioxolo[4,5-g]quinazolin-8-one (1.11 g, 27%).

reactant | 6-amino-benzo[1,3]dioxole-5-carboxylic acid | 23.7 mmol, 4.3 g | NC=1C(=CC2=C(OCO2)C1)C(=O)O | C8H7NO4
reactant | formamide | 15 mL | C(=O)N | CH3NO
product | 7H-[1,3]dioxolo[4,5-g]quinazolin-8-one | 1.11 g, 27% | O1COC=2C1=CC=1C(NC=NC1C2)=O | C9H6N2O3
